US07244861B2
1.015 g of t-butyl N-(5-bromo-2-methoxybenzyl)carbamate, 45 mg of dichlorobis(triphenylphosphine)palladium (II), 330 mg of sodium formate and 17 mg of triphenylphosphine were dissolved in anhydrous N,N-dimethylformamide, followed by stirring for 2 hours at 110° C. in carbon monoxide atmosphere. The reaction mixture was diluted with ethyl acetate, and washed with water and saturated sodium bicarbonate water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography, and 640 mg of t-butyl N-(5-formyl-2-methoxybenzyl)carbamate was obtained from fractions eluted with hexane-ethyl acetate (3:1).

reactant | t-butyl N-(5-bromo-2-methoxybenzyl)carbamate | 1.015 g | BrC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C13H18BrNO3
reactant | sodium formate | 330 mg | C(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | carbon monoxide | [C]=O | CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 45 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | t-butyl N-(5-formyl-2-methoxybenzyl)carbamate | 640 mg | C(=O)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H19NO4
